US09359286B2
Intermediate 5B: 2-(4-((5R,7S)-2-Oxo-3-oxa-1-azaspiro[4.4]nonan-7-yl)phenyl)acetic acid
To a mixture of tert-butyl 2-(4-((5R,7S)-2-oxo-3-oxa-1-azaspiro[4.4]nonan-7-yl)phenyl)acetate (I-5A, 1 g, 3.02 mmol) in DCM (20 mL) was added TFA (10 mL). After 2 h, the solution was concentrated in vacuo and used as such for the subsequent step without further purification. HPLC retention time=0.65 min (Condition G); LC/MS M+1=276.

reactant | tert-butyl 2-(4-((5R,7S)-2-oxo-3-oxa-1-azaspiro[4.4]nonan-7-yl)phenyl)acetate | 3.02 mmol, 1 g | O=C1N[C@@]2(CO1)C[C@H](CC2)C2=CC=C(C=C2)CC(=O)OC(C)(C)C | C19H25NO4
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-((5R,7S)-2-Oxo-3-oxa-1-azaspiro[4.4]nonan-7-yl)phenyl)acetic acid | O=C1N[C@@]2(CO1)C[C@H](CC2)C2=CC=C(C=C2)CC(=O)O | C15H17NO4
